US08110580B2
7-Chloro-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine
To a suspension of 2,5-dimethyl-4H-pyrazolo[1,5-a]pyrimidin-7-one (10.0 g, 61.3 mmol) in toluene (150 mL), add N,N-dimethylaniline (9.7 mL, 76.7 mmol). Add phosphorus oxychloride (11.2 mL, 122.6 mmol) dropwise to this white suspension. Reflux for 3 h under an inert atmosphere, cool to room temperature, and concentrate the reaction to a brown oil using reduced pressure. Dissolve the oil in ethyl acetate (250 mL) and basify with 1 N NaOH. Separate and extract the basic aqueous phase with additional ethyl acetate (2×100 mL). Combine the organic phases, dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure to yield a brown solid. Purify the material using flash chromatography, eluting with 80% hexane/20% (30% THF/hexane) to 0% hexane/100% (30% THF/hexane) in a step gradient of 20% increments to provide a light green solid (6.65 g, 59%). ES/MS m/z (35Cl) 182.3 (M+1)+.

reactant | 2,5-dimethyl-4H-pyrazolo[1,5-a]pyrimidin-7-one | 61.3 mmol, 10.0 g | CC1=NN2C(NC(=CC2=O)C)=C1 | C8H9N3O
reactant | N,N-dimethylaniline | 76.7 mmol, 9.7 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 122.6 mmol, 11.2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 7-Chloro-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 6.65 g, 59% | ClC1=CC(=NC=2N1N=C(C2)C)C | C8H8ClN3
